US07951950B2
To a solution of (±)-trans-methyl 5-(4-{[4-{[(4-chlorophenyl)(ethyl)amino]carbonyl}-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)-2,2-dimethylpentanoate (500 mg, 0.87 mmol) in 1:1 THF/methanol (5.0 mL) was added a solution of sodium hydroxide (69.5 mg, 1.74 mmol) in water (1.0 mL). The resulting mixture was heated at 60° C. for 18-20 hours and concentrated. The resulting residue was dissolved in water (˜50 mL), cooled to 0° C., and the solution acidified using 3N hydrochloric acid. The resulting precipitated material was collected via suction filtration, washed with 1N hydrochloric acid (3×25 mL), and dried to afford crude 5-(4-{[4-{[(4-Chlorophenyl)(ethyl)amino]carbonyl}-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)-2,2-dimethylpentanoic acid as a mixture of cis and trans isomers. Purification via HPLC yielded (±)-trans-5-(4-{[4-{[(4-Chlorophenyl)(ethyl)amino]carbonyl}-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)-2,2-dimethylpentanoic acid (23%).

reactant | (±)-trans-methyl 5-(4-{[4-{[(4-chlorophenyl)(ethyl)amino]carbonyl}-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)-2,2-dimethylpentanoate | 0.87 mmol, 500 mg | ClC1=CC=C(C=C1)N(C(=O)[C@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCCC(C(=O)OC)(C)C)C)CC | C34H39ClN2O4
reactant | THF methanol | 5.0 mL | C1CCOC1.CO
reactant | sodium hydroxide | 1.74 mmol, 69.5 mg | [OH-].[Na+]
solvent | water | 1.0 mL | O | H2O
product | 5-(4-{[4-{[(4-Chlorophenyl)(ethyl)amino]carbonyl}-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)-2,2-dimethylpentanoic acid | ClC1=CC=C(C=C1)N(C(=O)C1CC(N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCCC(C(=O)O)(C)C)C)CC | C33H37ClN2O4
